US04064059
Salicylidene-4-Amino-1,2,4-Triazole
4-amino-1,2,4-triazole (4.2 g.), salicylaldehyde (6.1g.) and xylene 140 ml. were heated at reflux for 3 hr. The reaction mixture was cooled and filtered to afford 9 grams of product, m.p. 210°-12°.

reactant | 4-amino-1,2,4-triazole | 4.2 g | NN1C=NN=C1 | C2H4N4
reactant | salicylaldehyde | 6.1g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | xylene | 140 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Salicylidene-4-Amino-1,2,4-Triazole | 9 grams | C(C=1C(O)=CC=CC1)=C1NN=CN1N | C9H10N4O
